US07507758B2
{4-[2-(4-fluorophenyl)vinyl]-1-phenylcyclohexyl}dimethylamine hydrochloride, least polar diastereoisomer
4-fluorobenzyltriphenyl phosphonium chloride (1.22 g, 3 mmole) was suspended under argon in abs. THF (15 ml) and cooled to −5° C. Potassium-tert-butanolate (337 mg, 3 mmole) dissolved in THF (14 ml) was added dropwise and the mixture post-stirred for 30 min at <0°. 4-dimethylamino-4-phenylcyclohexane carbaldehyde (467 mg, 2 mmole) dissolved in THF (8 ml) was subsequently added dropwise and the mixture stirred for 20 h with gradual heating to RT. For working up, the mixture was evaporated and 15 ml 1M HCl, 5 ml water and 30 ml ether were added to the residue. After stirring for 60 min, between the aqueous phase and the organic phase, there was a white solid which was suction filtered and washed with ether (3×2 ml). Following analysis and DC, this solid was the hydrochloride of the least polar of four possible diastereoisomers of {4-[2-(4-fluorophenyl)vinyl]-1-phenylcyclohexyl}dimethylamine (145 mg, mp. 255 to 258° C.).

reactant | 4-fluorobenzyltriphenyl phosphonium chloride | 3 mmole, 1.22 g | [Cl-].FC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | Potassium tert-butanolate | 3 mmole, 337 mg | [K].C(C)(C)(C)[O-]
reactant | 4-dimethylamino-4-phenylcyclohexane carbaldehyde | 2 mmole, 467 mg | CN(C1(CCC(CC1)C=O)C1=CC=CC=C1)C | C15H21NO
solvent | THF | 14 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | {4-[2-(4-fluorophenyl)vinyl]-1-phenylcyclohexyl}dimethylamine hydrochloride | Cl.FC1=CC=C(C=C1)C=CC1CCC(CC1)(C1=CC=CC=C1)N(C)C | InChI=1S/C22H26FN.ClH/c1-24(2)22(20-6-4-3-5-7-20)16-14-19(15-17-22)9-8-18-10-12-21(23)13-11-18;/h3-13,19H,14-17H2,1-2H3;1H
